US04082843
A mixture of methyl 3-(4-chloromethyl-3-hydroxybenzoyl)-propionate and 3N potassium hydroxide solution was heated under reflux for 4 hours to give 3-(3-hydroxy-4-hydroxymethylbenzoyl)propionic acid.

reactant | methyl 3-(4-chloromethyl-3-hydroxybenzoyl)-propionate | ClCC1=C(C=C(C(=O)CCC(=O)OC)C=C1)O | C12H13ClO4
reactant | potassium hydroxide | 3N | [OH-].[K+]
product | 3-(3-hydroxy-4-hydroxymethylbenzoyl)propionic acid | OC=1C=C(C(=O)CCC(=O)O)C=CC1CO | C11H12O5
